US06362177B1
4-(Aminomethyl)-1-(4-chlorobenzyl)piperidine (120 mg) was alkylated with 3,3-diphenylpropyl methanesulfonate (1.0 equiv.) in the presence of NaI (2.6 equiv.) in CH2CN at 70° C. for 16 h. General workup and column chromatography (SiO2) afforded 1-(4-chlorobenzyl)-4-{N-(3,3-diphenylpropyl)aminomethyl}piperidine (118 mg, 54%): The purity was determined by RPLC (98%).

reactant | 4-(Aminomethyl)-1-(4-chlorobenzyl)piperidine | 120 mg | NCC1CCN(CC1)CC1=CC=C(C=C1)Cl | C13H19ClN2
reactant | 3,3-diphenylpropyl methanesulfonate | 1.0 equiv. | CS(=O)(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H18O3S
reactant | NaI | 2.6 equiv. | [Na+].[I-]
product | 1-(4-chlorobenzyl)-4-{N-(3,3-diphenylpropyl)aminomethyl}piperidine | 118 mg, 54% | ClC1=CC=C(CN2CCC(CC2)CNCCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C28H33ClN2
